US04257987
Allylthiophosphonic acid O,O-di-ethyl ester
1 mole of thiophosphorous acid O,O-diethyl ester was dissolved in 600 ml of absolute benzene, and 1 mole of sodium ethylate, dissolved in absolute ethanol, was added at 0°-5° C., while cooling. 1.15 moles of allyl bromide were added dropwise to this mixture at 0°-5° C. and the mixture was stirred at 10° to 20° C. for a further 2 hours and at 40° C. for 3 hours. The NaBr which had separated out was filtered off and the filtrate was distilled.

reactant | thiophosphorous acid O,O-diethyl ester | 1 mole | C(C)OP(OCC)S | C4H11O2PS
reactant | sodium ethylate | 1 mole | CC[O-].[Na+]
reactant | allyl bromide | 1.15 moles | C(C=C)Br | C3H5Br
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | C(C)O | C2H6O
product | Allylthiophosphonic acid O,O-di-ethyl ester | C(C)OP(OCC)(=S)CC=C | C7H15O2PS
